US06004897
Synthesis of dimethyl(9-fluorenyl)silane chloride
A 1 liter four-necked flask equipped with a reflux tube, a thermometer and a dropping funnel was thoroughly purged with nitrogen and dried. To the flask, fluorene (5.00 g, 30 mmol) and dehydrated ether (100 ml) were introduced. Under stirring at -10° C., a hexane solution of n-butyllithium (30 mmol) was dropwise added over a period of 30 minutes. After the dropwise addition, the temperature of the system was allowed to spontaneously rise to room temperature little by little, and the reaction mixture was stirred at room temperature for 4 hours. The reaction solution turned into a yellow slurry. The slurry was dropwise added to a solution of dichlorodimethylsilane (18.24 ml, 150 mmol)/dehydrated ether (100 ml) over a period of 1 hour under stirring at -10° C. After the temperature of the system was allowed to spontaneously rise to room temperature, the reaction mixture was stirred over night. Lithium chloride was removed by means of pressure filteration of the resulting solution using a glass filter (G-5). Further the solvent and the unreacted dichlorodimethylsilane remained in the filtrate were removed under reduced pressure. The resulting filtrate was reslurried with dehydrated hexane (100 ml) and subjected to pressure filteration using a glass filter (G-5) to obtain a white powder (3.30 g, yield: 43%).

reactant | fluorene | 30 mmol, 5.00 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | n-butyllithium | 30 mmol | C(CCC)[Li]
reactant | dichlorodimethylsilane | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | ether | 150 mmol, 18.24 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | dimethyl(9-fluorenyl)silane chloride | 3.30 g, yield: 43% | [Cl-].C[SiH](C1C2=CC=CC=C2C=2C=CC=CC12)C | InChI=1S/C15H16Si.ClH/c1-16(2)15-13-9-5-3-7-11(13)12-8-4-6-10-14(12)15;/h3-10,15-16H,1-2H3;1H/p-1
